US08003654B2
2) Synthesis of ethyl-(6-methyl-pyrazin-2-ylmethyl)-amine
prepared by reaction of 2-chloromethyl-6-methyl-pyrazine (prepared according to Eiermann U. et al, Chem. Ber., 1990, 123, 523-533) with 2M ethylamine in THF.

reactant | 2-chloromethyl-6-methyl-pyrazine | ClCC1=NC(=CN=C1)C | C6H7ClN2
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(6-methyl-pyrazin-2-ylmethyl)-amine | C(C)NCC1=NC(=CN=C1)C | C8H13N3
